US04507498
Preparation of [6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid
A solution of 1.41 g of [6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid methyl ester in 50 ml of methanol and 14 ml of 1N sodium hydroxide was stirred at reflux for 22 hours. The methanol was removed in vacuo and the pH of the residue was adjusted to 2.0 with 6N hydrochloric acid. The gummy product was extracted with ether and the crude extract was purified by chromatography on 60 g of silica gel. Elution with a solvent mixture of toluene:ethyl acetate:acetic acid (65:25:10) gave, after recrystallization from methylene chlorideether, 0.51 g (38%), mp 151°-155°, of [6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid.

reactant | [6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid methyl ester | 1.41 g | COC(COC1=C(C(=CC=C1C(C)=O)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C28H36O8
solvent | methanol | 50 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 14 ml | [OH-].[Na+]
product | [6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid | C(C)(=O)C1=CC=C(C(=C1OCC(=O)O)CCC)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C27H34O8
